US09210927B2
Preparation of N-(2-Chloro-4-vinylbenzyl)pyridin-2-amine (CI59)
To a stirred solution of 3-chloro-4-((pyridin-2-ylamino)methyl)benzaldehyde (1 g, 4. mmol) in 1,4-dioxane (20 mL) were added K2CO3 (0.84 g, 6.09 mmol) and methyl triphenyl phosphonium bromide (2.17 g, 6.09 mmol) at ambient temperature. Then the resultant reaction mixture was heated at 100° C. for 18 h. After the reaction was deemed complete by TLC, the reaction mixture was cooled to ambient temperature and filtered, and the obtained filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography (SiO2, 100-200 mesh; 10% EtOAc in n-Hexane) to afford the title compound as a white solid (0.5 g, 50%): mp 119-121° C.; 1H NMR (400 MHz, CDCl3) δ 8.12 (s, 1H), 7.42-7.40 (m, 3H), 7.26 (s, 1H), 6.66 (m, 2H), 6.36 (d, J=6.3 Hz, 1H), 5.75 (d, J=13.2 Hz, 1H), 4.92 (br s, 1H), 4.60 (s, 2H); ESIMS m/z 245.05 ([M+H]+).

reactant | 3-chloro-4-((pyridin-2-ylamino)methyl)benzaldehyde | 1 g | ClC=1C=C(C=O)C=CC1CNC1=NC=CC=C1 | C13H11ClN2O
reactant | K2CO3 | 6.09 mmol, 0.84 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | methyl triphenyl phosphonium bromide | 6.09 mmol, 2.17 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | N-(2-Chloro-4-vinylbenzyl)pyridin-2-amine | 0.5 g, 50% | ClC1=C(CNC2=NC=CC=C2)C=CC(=C1)C=C | C14H13ClN2
